Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with history of asthma, 
hypertension, and MVP who presents with chest pain.  
 Patient reports developing ___ substernal chest pain the 
afternoon of ___ at 2:30 ___ while she was walking across the 
street. She describes the pain as like "being impaled on a 
stake". She reports associated headache and shortness of breath. 
She denies radiation, nausea/vomiting, and diaphoresis. She then 
went to a routine ObGyn appointment with chest pain and was sent 
to her PCP's office where an EKG was obtained and was told it 
was normal. The chest pain continued and she was given two 
aspirins and Maalox without relief. She was also told her blood 
pressure was elevated. An ambulance was called and another EKG 
obtained, which was also negative. En route to the hospital her 
chest pain improved. She also reports LLE swelling and pain 
about one week ago which she associated with "menopause." She 
also reports dry cough for the past one month which improved 
after she was given nitroglycerin.  
 In the ED, initial vital signs were: 98.2 76 138/92 12 99% RA. 
Labs were notable for WBC 7.3, H/H 11.8/35.5, Plt 264, Na 141, K 
3.7, BUN/Cr ___, trop 0.03 x 2, CK-MB 3, d-dimer 153, INR 
0.9, UA bland. Imaging with CXR was negative for acute process. 
EKG with SR @ 75 bpm, NANI, no acute ST changes. The patient had 
resumption of chest pain without ECG changes and was given SL 
NGT which provided complete relief of symptoms. The patient was 
given Aspirin 162mg PO, Nitroglycerin 0.4mg SL, albuterol IH, 
and amlodipine 5mg PO. Atrius Cardiology was consulted who 
recommended admission for stress, trops and further work-up. 
Vitals prior to transfer were: 97.5 83 125/80 18 100% RA.  
 
 Upon arrival to the floor, she denies chest pain and shortness 
of breath.  
 REVIEW OF SYSTEMS: Per HPI. Denies visual changes, pharyngitis, 
rhinorrhea, nasal congestion, cough, fevers, chills, sweats, 
weight loss, abdominal pain, nausea, vomiting, diarrhea, 
constipation, hematochezia, dysuria, rash, paresthesias, and 
weakness.  

 
Past Medical History:
- Asthma  
 - Hypertension  
 - Mitral Valve Prolapse  
 - Headache  

 
Social History:
___
Family History:
Father with diabetes, hypertension, and asthma. Mother with 
heart disease. Brother with MI at ___. Multiple other relative 
with diabetes. 
 
Physical Exam:
ADMISSION EXAM:  
VITALS: Temp 98.4, BP 129/79, HR 80, RR 17, O2 sat 100% RA  
GENERAL: Pleasant, well-appearing, in no apparent distress.  
HEENT: Normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
NECK: Supple, no LAD, no thyromegaly, JVP flat.  
CARDIAC: Regular rate & rhythm, normal S1/S2, no murmurs rubs or 
gallops.  
PULMONARY: Clear to auscultation bilaterally, without wheezes or 
rhonchi.  
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.  

DISCHARGE EXAM:  
VITALS: 98 ~130/80 ___ 18 100RA 71.5kg
GENERAL: Pleasant, well-appearing ___ woman 
appearing younger than stated age, in no apparent distress.  
Sitting up in bed, eating bfast.
HEENT: Normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
NECK: Supple, no LAD, no thyromegaly, JVP flat.  +R carotid 
bruit.
CARDIAC: Regular rate & rhythm, normal S1/S2, no murmurs rubs or 
gallops.  No murmurs/clicks appreciated sitting up or with 
vasalva.  L chest wall ___ tenderness on palpation.
PULMONARY: Clear to auscultation bilaterally, without wheezes or 
rhonchi.  
ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  No femoral bruits appreciated.
NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.  

 
Pertinent Results:
ADMISSION LABS
==============
___ 09:20PM BLOOD WBC-7.3 RBC-3.90 Hgb-11.8 Hct-35.5 MCV-91 
MCH-30.3 MCHC-33.2 RDW-13.8 RDWSD-46.0 Plt ___
___ 09:20PM BLOOD Neuts-57.5 ___ Monos-7.6 Eos-0.6* 
Baso-0.6 Im ___ AbsNeut-4.18 AbsLymp-2.42 AbsMono-0.55 
AbsEos-0.04 AbsBaso-0.04
___ 09:20PM BLOOD ___ PTT-30.0 ___
___ 09:20PM BLOOD Glucose-104* UreaN-14 Creat-0.8 Na-141 
K-3.7 Cl-106 HCO3-27 AnGap-12
___ 06:11AM BLOOD CK(CPK)-164
___ 09:20PM BLOOD CK-MB-3
___ 09:20PM BLOOD cTropnT-0.03*
___ 06:11AM BLOOD Calcium-9.0 Phos-3.7 Mg-2.4
___ 09:57PM BLOOD D-Dimer-153
___ 09:30PM URINE Color-Straw Appear-Clear Sp ___
___ 09:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG

DISCHARGE LABS
==============
___ 06:11AM BLOOD WBC-6.0 RBC-3.76* Hgb-11.3 Hct-34.6 
MCV-92 MCH-30.1 MCHC-32.7 RDW-14.2 RDWSD-48.0* Plt ___
___ 06:11AM BLOOD Glucose-87 UreaN-17 Creat-0.8 Na-142 
K-3.9 Cl-108 HCO3-25 AnGap-13
___ 06:11AM BLOOD CK(CPK)-164
___ 06:11AM BLOOD CK-MB-4 cTropnT-<0.01
___ 06:11AM BLOOD Calcium-9.0 Phos-3.7 Mg-2.4

STUDIES
=======
___ Cardiovascular ECHO

___ Cardiovascular STRESS 
INTERPRETATION: This is a ___ year old woman here for the 
evaluation 
of chest pain. The patient exercised on a Modified ___ 
treadmill 
protocol and stopped for fatigue after the completion of 10.5 
minutes. 
The peak estimated metabolic capacity was ___ METs, a good 
functional 
capacity for age. There was a chest pain reported, similar to 
symptom 
on admission (___). There were no ECG changes. The rhythm was 
sinus 
without ectopy. The blood pressure and heart rate responses were 

appropriate. 

IMPRESSION: Possible angina with no ischemic ECG changes to the 
good 
workload achieved. Normal hemodynamic response. Echo report sent 

separately. 

___ Imaging CHEST (PA & LAT) 
The lungs are well-expanded and clear.  No focal consolidation, 
edema, 
effusion, or pneumothorax.  The cardiomediastinal silhouette is 
normal. Hilar contours are normal.  No pleural abnormality.  No 
acute osseous abnormality. 

 
Brief Hospital Course:
Ms. ___ is a ___ female with history of asthma, 
hypertension, and MVP who presents with chest pain c/f 
exertional angina with mild trop leak versus esophageal spasm in 
the setting of GERD.

# Chest Pain: Presented with chest pain that resolved with SLNG. 
 She had mild elevation of troponins (0.03 X2) that resolved 
prior to discharge. She underwent stress echo that was negative 
for any evidence of ischemic disease. Her symptoms were thus 
attributed to possible esophageal spasm.  Notably,  CAD risk 
factors include hypertension and first degree relative with MI 
in ___. CXR was benign.  Some reproducibility on palpation c/f 
mild costochondritis.  

# previous h/o MVR: No clicks or murmurs appreciated on exam.  
Deferred further studies at this time as stress echo should be 
able to assess for gross abnormalities.

# Hypertension: Continued home amlodipine  

# Asthma: continued home Flovent and albuterol nebs  

# R carotid bruit: c/f atherosclerotic dz; recommended 
outpatient f/u.

Transitional Issues:
-if symptoms occur consider further workup for esophageal 
disease
-R carotid bruit on exam; please consider carotid u/s to assess 
# CONTACT: ___ (husband) ___  
# CODE STATUS: Full Code  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Fluticasone Propionate 110mcg 1 PUFF IH BID 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath, 
wheezing 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Fluticasone Propionate 110mcg 1 PUFF IH BID 
3. Multivitamins 1 TAB PO DAILY 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath, 
wheezing 
5. Omeprazole 40 mg PO DAILY Duration: 30 Days 
RX *omeprazole 40 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: chest pain
Secondary: hypertension, hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came in with chest pain. You had a stress test that showed 
that your chest pain was probably not due to any blockages in 
the arteries leading to your heart. You also had blood tests and 
an EKG that showed you were not having a heart attack.

We think your chest pain may have been from a spasm of your 
esophagus which might be caused from excess acid and acid 
reflux.  We have prescribed an anti-acid pill that you should 
try taking for ___ weeks for relief of your reflux symptoms; if 
your symptoms do not improve or if you have this pain again, you 
should talk to your primary doctor about having more tests to 
examine the esophagus. 

It was a pleasure taking care of you, and we are happy you are 
feeling better!
 
Followup Instructions:
___